US08609656B2
Preparation of 1-[4-(2-dimethylamino-ethyl)-3-(trifluoromethyl)phenyl]-3-[4-(6-(methylamino)purin-9-yl)phenyl]urea (Table 2, Compound No. 68)
In 1 mL of ethanol, 25 mg (0.04 mmol) of methyl-[9-(4-{3-[4-(2-oxoethyl)-3-(trifluoromethyl)phenyl]ureido}-phenyl)-9H-purin-6-yl]-carbamic acid tert-butyl ester was dissolved, and 10 μL of acetic acid and 0.1 mL (0.20 mmol) of 2N dimethylamine were added thereto and the mixture solution was stirred at room temperature for 30 minutes. Furthermore, 7 mg (0.11 mmol) of sodium cyanoborohydride was added to the obtained solution and the mixture solution was stirred at room temperature for one hour. The reaction solution was concentrated and to the residue, 0.5 mL of trifluoroacetic acid was added and the mixture was stirred at room temperature for one hour. The reaction solution was concentrated, and a target product was obtained by a reversed phase HPLC (a product of Wako Pure Chemical, Combi ODS, 28 mm×50 mm, 0.05% acetonitrile-water, 30 mL/min). The fraction containing the target product was concentrated, and then dissolved in methanol and neutralized by addition of amino silica gel R 66030 B (a product of Silicycle), and then a solid was removed by filtration and the filtrate was concentrated to obtain 15 mg (52%) of a title compound.

reactant | methyl-[9-(4-{3-[4-(2-oxoethyl)-3-(trifluoromethyl)phenyl]ureido}-phenyl)-9H-purin-6-yl]-carbamic acid tert-butyl ester | 0.04 mmol, 25 mg | C(C)(C)(C)OC(N(C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)CC=O)C(F)(F)F)C)=O | C27H26F3N7O4
reactant | acetic acid | 10 μL | C(C)(=O)O | C2H4O2
reactant | dimethylamine | 0.20 mmol, 2N, 0.1 mL | CNC | C2H7N
reactant | sodium cyanoborohydride | 0.11 mmol, 7 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-[4-(2-dimethylamino-ethyl)-3-(trifluoromethyl)phenyl]-3-[4-(6-(methylamino)purin-9-yl)phenyl]urea | 15 mg, 52% | CN(CCC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC)C(F)(F)F)C | C24H25F3N8O
